Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Codeine / Quinine
 
Attending: ___
 
Chief Complaint:
non-small cell lung cancer
 
Major Surgical or Invasive Procedure:
video assisted cervical mediastinoscopy, flexible bronchoscopy

 
History of Present Illness:
Mr. ___ is a ___ current ___ py smoker, hx Hep C & HCC s/p
liver transplant ___, with 3cm RUL PET-avid nodule with
pathology showing non-small cell carcinoma, here for follow-up.

He has been asymptomatic since previous visit. No SOB, cough. No
fevers, chills, nightsweats. He had EBUS which biopsied lesion
showing non-small cell carcinoma. Lymph nodes were not biopsied. 

PET negative for distant metastasis.
 
Past Medical History:
HEPATITIS C (genotype 1a, no sequelae of chronic liver disease 
at this point, stage III fibrosis on biopsy; now s/p liver 
transplant)                                                  
HEPATOCELLULAR CARCINOMA (s/p RFA on ___ to segment VIa 
lesion; now s/p liver transplant)                                
     
HYPERTENSION                                                     
                                                   
LUNG NODULE                                                     
DIABETES MELLITUS                                                
                                              
H/O ALCOHOL ABUSE                                               
H/O INTRAVENOUS DRUG ABUSE    
 
Social History:
___
Family History:
Positive for a mother with stomach cancer diagnosed at age of ___ 
and father with diabetes and also alcoholic with diabetes and 
coronary artery disease. 
 
Physical Exam:
Gen: Awake, alert, NAD 
CV: +RRR
Chest: incisions and dressing over prior CT site c/d/i 
Resp: Normal WOB, no distress on 2L NC; +CTAB, no wheezes or 
crackles
Abdomen: Soft, non-distended, non-TTP 
Ext: Warm, well-perfused 

 
Pertinent Results:
___ Liver Doppler US:
IMPRESSION: 
  
1. Patent transplant hepatic vasculature with appropriate 
waveforms. 
2. Unremarkable appearance of the transplant liver with no 
biliary dilatation. 
3. Small left pleural effusion noted. 

GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI. 

   RESPIRATORY CULTURE (Final ___: 
      ~3000 CFU/mL Commensal Respiratory Flora. 
      MORAXELLA CATARRHALIS.    >100,000 CFU/mL. 

 
Brief Hospital Course:
___ presented to ___ pre-op holding on ___ and 
underwent video assisted right upper lobectomy and flexible 
bronchoscopy (please see operative note for details). Patient 
was extubated post procedure, however in the OR, he became 
dyspneic, moving minimal air. He was reintubated given his 
respiratory distress and transferred to the ICU (___). 
The details of his/her course are as follows:

Neuro: Given history of chronic pain on home suboxone, patient 
was maintained on Tylenol and narcotics and the suboxone was 
held. He was ultimately discharged with a supply of oxycodone 
called to his pharmacy to last until his next appointment with 
his PCP ___ ___. 

CV: History of hypertension, continued on home lisinopril and 
carvedilol. Remained hemodynamically stable, no active issues. 

Pulm: Respiratory distress was likely secondary to lung 
contusion when attempting to remove specimen, as well as post op 
pain. He was extubated on POD1. He underwent bedside 
bronchoscopies for clearing of mucous plugs, with BAL (___) 
growing Moraxella. Both ___ drain and chest tube was put to 
water seal on POD1. ___ drain was pulled on POD5, chest tube 
was pulled on POD9, both with stable post pull films. His 
progress was monitored with daily CXR. Encouraged IS, 
ambulation. 

FEN/GI: Transplant hepatology following, given his history of 
___ s/p liver transplant. He was continued on home tacrolimus 
dosing with monitoring of tacrolimus levels (goal ___ and LFTs. 
Liver duplex was done due to persistently elevated LFTs per 
hepatology recs, which showed no abnormalities. LFTs continued 
to trend down. Follow up was set up with transplant hepatology 
to recheck labs outpatient. Once extubated, diet was advanced as 
tolerated. He tolerated a regular diet without nausea/vomiting 
and was passing flatus and stool appropriately. 

GU: He was able to void spontaneously without issue after foley 
removal. Initial ___ with Cr 1.8 post op, which returned to his 
baseline. History of CKD with baseline Cr 1.3-1.5.  

Heme: H/H remained stable and he did not require any 
transfusions. He was kept on prophylactic SQH while inpatient. 

ID: He was treated with azithromycin x5 days for Moraxella 
growing on BAL. 

Dispo: He worked with physical therapy with a final 
recommendation for discharge to home with home ___ services.  

By day of discharge on ___, he was hemodynamically stable, 
pain was well controlled on oral medications, he was tolerating 
a regular diet without issue, and was ready for discharge.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. Lisinopril 5 mg PO DAILY 
2. Nicotine Patch 21 mg/day TD DAILY 
3. Nicotine Polacrilex 4 mg PO Q2H:PRN cigarette craving 
4. CARVedilol 25 mg PO BID 
5. Tacrolimus 1.5 mg PO QAM 
6. docosahexanoic acid-epa 120-180 mg oral DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. Buprenorphine-Naloxone Film (8mg-2mg) 1 FILM SL BID 
9. sildenafil 25 mg oral DAILY:PRN ED 
10. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral BID 
11. Tacrolimus 1 mg PO QPM 
12. Chantix Starting Month Box (varenicline) 0.5 mg (11)- 1 mg 
(42) oral ASDIR 

 
Discharge Medications:
1.  OxyCODONE (Immediate Release) 15 mg PO Q6H:PRN Pain - Severe 

  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg ___ tablet(s) by mouth every six (6) hours 
Disp #*12 Tablet Refills:*0 
2.  Buprenorphine-Naloxone Film (8mg-2mg) 1 FILM SL BID 
Consider prescribing naloxone at discharge  
3.  Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral BID  
4.  CARVedilol 25 mg PO BID  
5.  Chantix Starting Month Box (varenicline) 0.5 mg (11)- 1 mg 
(42) oral ASDIR  
6.  docosahexanoic acid-epa 120-180 mg oral DAILY  
7.  Lisinopril 5 mg PO DAILY  
8.  Multivitamins 1 TAB PO DAILY  
9.  Nicotine Patch 21 mg/day TD DAILY  
10.  Nicotine Polacrilex 4 mg PO Q2H:PRN cigarette craving  
11.  sildenafil 25 mg oral DAILY:PRN ED  
12.  Tacrolimus 1.5 mg PO QAM  
13.  Tacrolimus 1 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
right upper lobe non-small cell lung cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* You were admitted to the hospital for lung surgery and you've 
recovered well. You are now ready for discharge.  

* Continue to use your incentive spirometer 10 times an hour 
while awake.

* Check your incisions daily and report any increased redness or 
drainage.   Cover the area with a gauze pad if it is draining.

* Your chest tube dressing may be removed in 48 hours.  If it 
starts to drain, cover it with a clean dry dressing and change 
it  as needed to keep site clean and dry.

* You may need pain medication once you are home but you can 
wean it over the next week as the discomfort resolves.  Make 
sure that you have regular bowel movements while on narcotic 
pain medications as they are constipating which can cause more 
problems.  Use a stool softener or gentle laxative to stay 
regular.

* No driving while taking narcotic pain medication.

* Take Tylenol on a standing basis to avoid more opiod use.

* Continue to stay well hydrated and eat well to heal your 
incisions

* Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
 * No tub bathing, swimming or hot tubs until incision healed
 * No lotions or creams to incision site

* Walk ___ times a day and gradually increase your activity as 
you can tolerate.

Call Dr. ___ ___ if you experience:
 -Fevers > 101 or chills
 -Increased shortness of breath, chest pain or any other 
symptoms that concern you.

** If pathology specimens were sent at the time of surgery, the 
reports will be reviewed with you in detail at your follow up 
appointment. This will give both you and your doctor time to 
understand the pathology, its implications and discuss options 
going forward.**

 
 
Followup Instructions:
___